US05707991
D 4-[2-(2-Fluorobenzylidaneamino)acetyl]morpholine can be prepared as described in Example 2D, but from 5.3 cm3 of 2-fluorobenzaldehyde, 9.1 g of 4-(2-aminoacetyl)morpholine hydrochloride, 6 g of 4 Å seive and 7 cm3 of triethylamine in 150 cm3 of dichloromethane. After treatment, there are obtained 12 g of 4-[2-(2-fluorobenzylideneamino)acetyl]morpholine in the form of an oil used as is in the subsequent syntheses.

reactant | 2-fluorobenzaldehyde | 5.3 cm3 | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 4-(2-aminoacetyl)morpholine hydrochloride | 9.1 g | Cl.NCC(=O)N1CCOCC1
reactant | triethylamine | 7 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | 4-[2-(2-fluorobenzylideneamino)acetyl]morpholine | 12 g | FC1=C(C=NCC(=O)N2CCOCC2)C=CC=C1 | C13H15FN2O2
